US09062048B2
Step B: Tert-butyl 2-((2-carbamoyl-6-(trifluoromethyl)quinolin-4-yl)amino)acetate
A solution of tert-butyl 2-((2-cyano-6-(trifluoromethyl)quinolin-4-yl)amino)acetate (329 mg, 0.94 mmol) from above step A, in EtOH (3 mL) water (600 uL) and THF (5 mL) was added hydrido(dimethylphosphinous acid-kp)[hydrogen bis(dimethylphosphinito-kp)]platinum(ii) (80 mg, 0.18 mmol) and stirred at 75° C. for 3 h. The mixture was filtered to remove the white solid that had formed and the filtrate was evaporated under vacuum. The residue was purified by silica column chromatography to give the title compound.

reactant | tert-butyl 2-((2-cyano-6-(trifluoromethyl)quinolin-4-yl)amino)acetate | 0.94 mmol, 329 mg | C(#N)C1=NC2=CC=C(C=C2C(=C1)NCC(=O)OC(C)(C)C)C(F)(F)F | C17H16F3N3O2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOH | 3 mL | CCO | C2H6O
product | Tert-butyl 2-((2-carbamoyl-6-(trifluoromethyl)quinolin-4-yl)amino)acetate | C(N)(=O)C1=NC2=CC=C(C=C2C(=C1)NCC(=O)OC(C)(C)C)C(F)(F)F | C17H18F3N3O3
